US07420001B2
To a solution of 0.220 g (0.940 mmol) of 4-hydroxymethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester in 5 mL of DMF was added 0.156 g (1.034 mmol) of t-butyldimethylsilyl chloride and 0.160 g (2.350 mmol) of imidazole and the reaction was stirred at room temperature for 14 h. The reaction mixture was diluted with water and extracted with ether. The combined organics were washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:10) to provide 0.315 g of 4-tert-butyl(dimethyl)silyloxymethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester.

reactant | 4-hydroxymethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester | 0.940 mmol, 0.220 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CO | C13H14O4
reactant | t-butyldimethylsilyl chloride | 1.034 mmol, 0.156 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.350 mmol, 0.160 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-tert-butyl(dimethyl)silyloxymethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester | 0.315 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CO[Si](C)(C)C(C)(C)C | C19H28O4Si
